US06265349B1
Preparation of 3-(2,4-difluorophenyl)-1-methyl-6-trifluoromethyl-2(1H)pyridone (Compound No. 1-12)
13.8 g (50 mmol) of 3-(2,4-difluorophenyl)-6-trifluoromethyl-2H-pyran-2-one was dissolved in 150 ml of ethanol, and 5.5 g (70 mmol) of a 40% methylamine methanol solution was added, followed by stirring for 6 hours under heating and refluxing. The reaction solution was poured into ice water and extracted with ethyl acetate. After washing with 1N hydrochloric acid and water, the organic layer was dried over anhydrous. magnesium sulfate. Ethyl acetate was distilled off under reduced pressure, and then, the obtained residue was purified by silica gel column chromatography to obtain 3.8 g (yield: 26%) of the desired product. Melting point: 123-124° C. 1H-NMR (400 MHz, CDCl3) δ value: 3.70(3H,s), 6.75(1H,d), 6.90(2H,m), 7.43(1H,d), 7.58(1H,m)ppm.

reactant | 3-(2,4-difluorophenyl)-6-trifluoromethyl-2H-pyran-2-one | 50 mmol, 13.8 g | FC1=C(C=CC(=C1)F)C=1C(OC(=CC1)C(F)(F)F)=O | C12H5F5O2
reactant | methylamine methanol | CO.CN
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 3-(2,4-difluorophenyl)-1-methyl-6-trifluoromethyl-2(1H)pyridone | 3.8 g, yield: 26% | FC1=C(C=CC(=C1)F)C=1C(N(C(=CC1)C(F)(F)F)C)=O | C13H8F5NO
